US08455646B2
Preparation of (R)-1-[2-(4-amino-phenyl)-2-oxo-ethyl]-3-((R)-2-phenyl-2-phenylamino-acetoxy)-1-azonia-bicyclo[2.2.2]octane formate (diastereoisomer 1 of C271)
A solution of (R)-1-[2-(4-nitro-phenyl)-2-oxo-ethyl]-3-((R)-2-phenyl-2-phenylamino-acetoxy)-1-azonia-bicyclo[2.2.2]octane bromide (Diastereoisomer 1 of C179) (88 mg, 0.152 mmol) in THF (30 mL) is hydrogenated in presence of a catalytic amount of Pt2O at 15 psi for 2 hours and then at 20 psi for additional 2 hours (UPLC-MS monitoring: complete conversion). Catalyst is removed by filtration and the solution evaporated to dryness. The crude is purified by preparative HPLC to give the title compound as a pale yellow solid (31 mg, 37% yield, formate formate anion, single diastereoisomer).

reactant | (R)-1-[2-(4-nitro-phenyl)-2-oxo-ethyl]-3-((R)-2-phenyl-2-phenylamino-acetoxy)-1-azonia-bicyclo[2.2.2]octane bromide | 0.152 mmol, 88 mg | [Br-].[N+](=O)([O-])C1=CC=C(C=C1)C(C[N+]12C[C@@H](C(CC1)CC2)OC([C@H](NC2=CC=CC=C2)C2=CC=CC=C2)=O)=O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (R)-1-[2-(4-amino-phenyl)-2-oxo-ethyl]-3-((R)-2-phenyl-2-phenylamino-acetoxy)-1-azonia-bicyclo[2.2.2]octane formate | 31 mg, 37% yield | C(=O)[O-].NC1=CC=C(C=C1)C(C[N+]12C[C@@H](C(CC1)CC2)OC([C@H](NC2=CC=CC=C2)C2=CC=CC=C2)=O)=O | InChI=1S/C29H31N3O3.CH2O2/c30-24-13-11-21(12-14-24)26(33)19-32-17-15-22(16-18-32)27(20-32)35-29(34)28(23-7-3-1-4-8-23)31-25-9-5-2-6-10-25;2-1-3/h1-14,22,27-28,31H,15-20H2,(H-,30,33);1H,(H,2,3)/t22?,27-,28+,32?;/m0./s1
